US06706748B2
To a solution of N-(4-chlorophenyl)-4-methoxybenzenesulfonamide (1.98 g) in unhydrous N,N-dimethylformamide (20 ml) 60% sodium hydride (0.24 g) was added at room temperature. After stirring the reaction mixture at the same temperature for 1 hour, a solution of 3,4-dichloro-5-isothiazolecarbonyl chloride (1.1 g) in unhydrous N,N-dimethylformamide (10 ml) was added thereto dropwise. After finishing the addition, the reaction mixture was stirred at room temperature for 18 hours and poured into water. The mixture was extracted with ethyl acetate and the organic phase was washed with water and dried with unhydrous sodium sulfate. The crude product obtained by distilling off the solvent under reduced pressure was recrystallized from ethanol to obtain N-(3,4-dichloro-5-isothiazolecarbonyl)-N-(4-chlorophenyl)-4-methoxybenzenesulfonamide (0.89 g). mp 154-158° C.

reactant | N-(4-chlorophenyl)-4-methoxybenzenesulfonamide | 1.98 g | ClC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H12ClNO3S
reactant | 3,4-dichloro-5-isothiazolecarbonyl chloride | 1.1 g | ClC1=NSC(=C1Cl)C(=O)Cl | C4Cl3NOS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml, 0.24 g | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(3,4-dichloro-5-isothiazolecarbonyl)-N-(4-chlorophenyl)-4-methoxybenzenesulfonamide | 0.89 g | ClC1=NSC(=C1Cl)C(=O)N(S(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl | C17H11Cl3N2O4S2
